US08106064B2
5-Isopropyl-6-(2,3,5-trimethyl-phenoxy)-1H-pyrimidine-2,4-dione (159):
2,4-Bis-benzyloxy-5-isopropyl-6-(2,3,5-trimethyl-phenoxy)-pyrimidine was dissolved in 6 mL ethyl acetate and 6 mL ethanol mixture. 10% Pd/C (52 mg) was added to the mixture. Then hydrogen balloon was applied. The reaction was stirred at room temperature for 40 minutes. The reaction crude was filtered through celite. The filtrate was concentrated down and purified (silica gel, 0-50% EtOAC/hexane) followed by reverse phase HPLC (MeCN/water) to give white solid (94 mg, 59%). LC-MS shows 289.1 (M+1). 1H NMR (300 MHz, CDCl3): δ 9.6 (br, 1H), 8.9 (br, 1H), 6.88 (s, 1H), 6.58 (s, 1H), 3.12 (m, 1H), 2.18 (s, 6H), 2.12 (s, 3H), 1.22 (d, 6H).

reactant | 2,4-Bis-benzyloxy-5-isopropyl-6-(2,3,5-trimethyl-phenoxy)-pyrimidine | C(C1=CC=CC=C1)OC1=NC(=C(C(=N1)OCC1=CC=CC=C1)C(C)C)OC1=C(C(=CC(=C1)C)C)C | C30H32N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 6 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 6 mL | C(C)O | C2H6O
catalyst | Pd/C | 52 mg | [Pd] | Pd
product | 5-Isopropyl-6-(2,3,5-trimethyl-phenoxy)-1H-pyrimidine-2,4-dione | 94 mg, 59% | C(C)(C)C=1C(NC(NC1OC1=C(C(=CC(=C1)C)C)C)=O)=O | C16H20N2O3
